US07691882B2
5-(2-Nitro-ethyl)-2-(pyridin-2-yloxymethyl)-pyridine
To an acetic acid (20 mL) solution of 6-(pyridine-2-yloxymethyl)-pyridine-3-carbaldehyde (504 mg, 2.35 mmol) described in Manufacturing Example 154-1-6 were added nitromethane (635 μL, 11.8 mmol) and ammonium acetate (363 mg, 4.71 mmol), which was stirred for 4 hours at 100° C. under nitrogen atmosphere. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a solution of this residue in dimethyl sulfoxide (25 mL) and acetic acid (2.5 mL) was added sodium borohydride (178 mg, 4.71 mmol), which was stirred for 25 minutes at room temperature. Sodium hydrogencarbonate and water were added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (93 mg, 15%).

reactant | 6-(pyridine-2-yloxymethyl)-pyridine-3-carbaldehyde | 2.35 mmol, 504 mg | N1=C(C=CC=C1)OCC1=CC=C(C=N1)C=O | C12H10N2O2
reactant | nitromethane | 11.8 mmol, 635 μL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 4.71 mmol, 363 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 4.71 mmol, 178 mg | [BH4-].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | acetic acid | 2.5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-(2-Nitro-ethyl)-2-(pyridin-2-yloxymethyl)-pyridine | 93 mg, 15% | [N+](=O)([O-])CCC=1C=CC(=NC1)COC1=NC=CC=C1 | C13H13N3O3
